US06951870B2
(a) 7,8-Dimethoxy-6-nitro-3-o-tolyl-chromen-2-one
A mixture of 2-methylphenyl acetic acid (0.60 g), 2-hydroxy-3,4dimethoxy-5-nitro-benzaldehyde (0.91 g), PhPOCl2 (0.60 ml) and triethyl amine (1.7 ml) were reacted in 1,2-dichloroethane as described in example 4. Yield: 0.68 g.

reactant | 2-methylphenyl acetic acid | 0.60 g | CC1=C(C=CC=C1)CC(=O)O | C9H10O2
reactant | 2-hydroxy-3,4dimethoxy-5-nitro-benzaldehyde | 0.91 g | OC1=C(C=O)C=C(C(=C1OC)OC)[N+](=O)[O-] | C9H9NO6
reactant | PhPOCl2 | 0.60 ml | C1(=CC=CC=C1)P(=O)(Cl)Cl | C6H5Cl2OP
reactant | triethyl amine | 1.7 ml | C(C)N(CC)CC | C6H15N
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 7,8-Dimethoxy-6-nitro-3-o-tolyl-chromen-2-one | COC1=C(C=C2C=C(C(OC2=C1OC)=O)C1=C(C=CC=C1)C)[N+](=O)[O-] | C18H15NO6
